US07612075B2
A. (±)-1-(3-Amino-4-cyano-benzyl)-4-(5-chloro-1H-indol-2-ylmethyl)-6-oxo-piperazine-2-carboxylic acid.
LiOH monohydrate (380 mg, 9.06 mmol) is added at ambient temperature to a solution containing (±)-2-[4-(3-amino-4-cyano-benzyl)-3-methoxycarbonyl-5-oxo-piperazin-1-ylmethyl]-5-chloro-indole-1-carboxylic acid tert-butyl ester (1.0 g, 1.81 mmol), EXAMPLE 784, Part E, in 1:1:1 THF/MeOH/water (30 mL). After 16 h, HOAc (0.5 mL) is added and the reaction mixture is concentrated in vacuo. The residue is dissolved in CH3CN/water and purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 378 mg (48%) of the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) δ3.03 (m, 1H), 3.48 (m, 1H), 3.51 (ABq, ΔAB=69.2 Hz, JAB=16.4 Hz, 2H), 3.78 (d, J=15.9 Hz, 1H), 4.05-4.09 (m, 2H), 5.04 (d, J=15.9 Hz, 1H), 6.41 (m, 2H), 6.58 (s, 1H), 7.04 (dd, J=8.6, 2.0 Hz, 1H), 7.25 (d, J=8.0 Hz, 1H), 7.35 (d, J=8.6 Hz, 1H), 7.51, d, J=2.0 Hz, 1H) ppm; MS (ISP loop): m/z 438 (M+H).

reactant | (±)-2-[4-(3-amino-4-cyano-benzyl)-3-methoxycarbonyl-5-oxo-piperazin-1-ylmethyl]-5-chloro-indole-1-carboxylic acid tert-butyl ester | 1.81 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)Cl)CN1CC(N(C(C1)=O)CC1=CC(=C(C=C1)C#N)N)C(=O)OC | C28H30ClN5O5
reactant | THF MeOH water | 30 mL | C1CCOC1.CO.O
solvent | HOAc | 0.5 mL | CC(=O)O | C2H4O2
product | (±)-1-(3-Amino-4-cyano-benzyl)-4-(5-chloro-1H-indol-2-ylmethyl)-6-oxo-piperazine-2-carboxylic acid | 378 mg, 48% | NC=1C=C(CN2C(CN(CC2=O)CC=2NC3=CC=C(C=C3C2)Cl)C(=O)O)C=CC1C#N | C22H20ClN5O3
